US06121202
Preparation of 4-Methoxy-2-(α,α,α-trifluoro-p-tolyl)-6-{[5-(trifluoromethyl)-3-thienyl]oxy}pyrimidine
A solution of 2-(α,α,α-trifluoro-p-tolyl)-4,6-di{[5-(trifluoromethyl)-3-thienyl]oxy}pyrimidine (1.50 g, 2.70 mnol) in dimethylformamide is treated with 25% NaOCH3 in methanol (0.58 g, 2.70 mmol), heated to 60° C. for 1.5 hours, cooled to room temperature, poured onto water and acidified to pH 5 with 6N HCl. The resultant reaction mixture is extracted with ether. The ether extracts are combined, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to give a solid residue. The residue is chromatographed (silica gel, ethyl acetate/hexanes, 3/97) to afford the title product as a white solid, 0.58 g (51% yield), mp 91-93° C., identified by 1HNMR, 13CNMR, 19FNMR, mass spectral and elemental analyses.

reactant | 2-(α,α,α-trifluoro-p-tolyl)-4,6-di{[5-(trifluoromethyl)-3-thienyl]oxy}pyrimidine | 1.50 g | FC(C1=CC=C(C=C1)C1=NC(=CC(=N1)OC1=CSC(=C1)C(F)(F)F)OC1=CSC(=C1)C(F)(F)F)(F)F | C21H9F9N2O2S2
reactant | NaOCH3 | O([Na])C
reactant | methanol | 2.70 mmol, 0.58 g | CO | CH4O
reactant | HCl | 6N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Methoxy-2-(α,α,α-trifluoro-p-tolyl)-6-{[5-(trifluoromethyl)-3-thienyl]oxy}pyrimidine | 51% yield | COC1=NC(=NC(=C1)OC1=CSC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C17H10F6N2O2S
